US07544695B2
N-(4-{[(4-Aminobiphenyl-3-yl)amino]carbonyl}phenyl)-2,8-diazaspiro[4.5]decane-2-carboxamide
To a solution of stirring 4-isocyanatobenzoyl chloride (50 mg, 0.275 mmol) in 3 mL dichloromethane was added tert-butyl 2,8-diazaspiro[4.5]decane-8-carboxylate (60 mg, 0.275 mmol) slowly over a period of 10 minutes. The reaction mixture was allowed to stir for 30 min. at room temperature. Tert-butyl (3-aminobiphenyl-4-yl)carbamate (78.2 mg, 0.275 mmol) was then added, followed by the addition of diisopropylethylamine (48 μL, 0.275 mmol). The reaction mixture was allowed to stir for 1 hour at room temperature. Argonaut MP-Carbonate scavenging resin (285 mg, 0.825 mmol) was then added and stirred overnight at room temperature. The mixture was then filtered from scavenging resin and concentrated. Added dichloromethane (1 mL) and stirred, then treated with trifluoroacetic acid (1 mL). The reaction mixture was concentrated after 2 hours of stirring at room temperature and the crude residue was purified by reverse-phase chromatography (5-50-95% acetonitrile/water with 0.1% formic acid). The appropriate fractions were combined and lyophilized. MS (ESI+): cal'd [M+H]+470.2, obs'd 470.1

reactant | 4-isocyanatobenzoyl chloride | 0.275 mmol, 50 mg | N(=C=O)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO2
reactant | tert-butyl 2,8-diazaspiro[4.5]decane-8-carboxylate | 0.275 mmol, 60 mg | C1NCCC12CCN(CC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | Tert-butyl (3-aminobiphenyl-4-yl)carbamate | 0.275 mmol, 78.2 mg | NC=1C=C(C=CC1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H20N2O2
reactant | diisopropylethylamine | 0.275 mmol, 48 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Carbonate | C([O-])([O-])=O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(4-{[(4-Aminobiphenyl-3-yl)amino]carbonyl}phenyl)-2,8-diazaspiro[4.5]decane-2-carboxamide | NC1=C(C=C(C=C1)C1=CC=CC=C1)NC(=O)C1=CC=C(C=C1)NC(=O)N1CC2(CC1)CCNCC2 | C28H31N5O2
